US04956416
1,3-Dimethyl-3-(2-ethylhexanoylperoxy)butyl carbazate was prepared by reacting 1,3-dimethyl-3-(2-ethylhexanoylperoxy)butyl chloroformate with 11 molar excess of 54% aqueous hydrazine. 1,3-Dimethyl-3-(2-ethylhexanoylperoxy)butyl chloroformate was initially prepared with a purity of 72% by reacting 3-hydroxy-1,1-dimethylbutyl peroxy-2-ethylhexanoate with excess phosgene followed by removal of excess phosgene.

reactant | 1,3-dimethyl-3-(2-ethylhexanoylperoxy)butyl chloroformate | ClC(=O)OC(CC(C)(OOC(C(CCCC)CC)=O)C)C | C15H27ClO5
reactant | hydrazine | NN | H4N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 1,3-Dimethyl-3-(2-ethylhexanoylperoxy)butyl carbazate | C(NN)(=O)OC(CC(C)(OOC(C(CCCC)CC)=O)C)C | C15H30N2O5
